US04536346
4-[2,2-Bis(p-chlorophenyl)acetamido]benzoic acid
A mixture of 6.0 g. of p-[2,2-bis(p-chlorophenyl)acetamido]benzoic acid, ethyl ester, 920 mg. of potassium hydroxide, and 50 ml. of 95% ethanol is stirred at 75° C. for 9 hours, cooled, diluted with 100 ml. of water, and the pH is adjusted to 2.0 with 37% hydrochloric acid. The precipitate is collected, washed with water, dried and recrystallized from 100 ml. of ethanol, giving 2.78 g. of the desired product as colorless crystals, m.p. 272°-274° C.

reactant | p-[2,2-bis(p-chlorophenyl)acetamido]benzoic acid, ethyl ester | ClC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C(=O)OCC)C=C1)C1=CC=C(C=C1)Cl | C23H19Cl2NO3
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethanol | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 4-[2,2-Bis(p-chlorophenyl)acetamido]benzoic acid | ClC1=CC=C(C=C1)C(C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=C(C=C1)Cl | C21H15Cl2NO3
